### PR TITLE
feat: a series of smooth functions that converges (locally) uniformly is smooth

### PR DESCRIPTION
**Pull request by CoolRmal**
The main theorem is the proof that an infinite sum of $C^n$ functions on a one-dimensional domain which converges locally uniformly is $C^n$ and related results.

This should be compared with [contDiff_tsum](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/SmoothSeries.html#contDiff_tsum) where the same result is proved for functions on an arbitrary domain but with a slightly stronger convergence assumption.

The main motivation for this PR is the [#mathlib4 > Tychonov's Counterexample for the Heat Equation](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Tychonov's.20Counterexample.20for.20the.20Heat.20Equation/with/547367912).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 1]
```diff
@@ -117,6 +117,16 @@ theorem MultipliableUniformlyOn.hasProdUniformlyOn [T2Space α] (h : Multipliabl
   intro s hs
   exact (hasProdUniformlyOn_iff_tendstoUniformlyOn.mp hg s hs).congr_right (hg.tprod_eqOn hs).symm
 
+@[to_additive]
+lemma MultipliableUniformlyOn_congr [T2Space α]
+    {f f' : ι → β → α} (h : ∀ s ∈ 𝔖, ∀ i, s.EqOn (f i) (f' i))
+    (h2 : MultipliableUniformlyOn f 𝔖) : MultipliableUniformlyOn f' 𝔖 := by
+  apply HasProdUniformlyOn.multipliableUniformlyOn
+  refine (h2.hasProdUniformlyOn).congr ?_
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean]:
```suggestion
  refine h2.hasProdUniformlyOn.congr ?_
```

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 2]
```diff
@@ -117,6 +117,16 @@ theorem MultipliableUniformlyOn.hasProdUniformlyOn [T2Space α] (h : Multipliabl
   intro s hs
   exact (hasProdUniformlyOn_iff_tendstoUniformlyOn.mp hg s hs).congr_right (hg.tprod_eqOn hs).symm
 
+@[to_additive]
+lemma MultipliableUniformlyOn_congr [T2Space α]
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean]:
```suggestion
lemma MultipliableUniformlyOn.congr [T2Space α]
```
(and then you can use dot notation later on)

File: Mathlib/Topology/Algebra/InfiniteSum/TsumUniformlyOn.lean [hunk 3]
```diff
@@ -58,20 +56,75 @@ lemma SummableLocallyUniformlyOn_of_locally_bounded [TopologicalSpace β] [Local
...
+section Continuous
+
+/-- An infinite sum of continuous functions that converges uniformly on a set
+is continuous. -/
+theorem SummableUniformlyOn.continuousOn_tsum (hf : ∀ i, ContinuousOn (f i) s)
+    (h : SummableUniformlyOn f {s}) : ContinuousOn (fun x => ∑' n, f n x) s := by
+  have := hasSumUniformlyOn_iff_tendstoUniformlyOn.mp h.hasSumUniformlyOn s (Set.mem_singleton s)
+  refine this.continuousOn ?_
+  filter_upwards with _
+  fun_prop
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/InfiniteSum/TsumUniformlyOn.lean]: How does this compare to the existing lemma [continuousOn_tsum](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Group/FunctionSeries.html#continuousOn_tsum)? Is this a generalisation?

Comment (CoolRmal) [reply Mathlib/Topology/Algebra/InfiniteSum/TsumUniformlyOn.lean]: Yes this is a generalization, but [continuousOn_tsum](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Group/FunctionSeries.html#continuousOn_tsum) is probably easier to use (at least I believe it is a more common of proving that the infinite sum of continuous functions is continuous).

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 4]
```diff
@@ -128,6 +128,14 @@ lemma MultipliableUniformlyOn.mono {t : Set β}
     (h : MultipliableUniformlyOn f t) (hst : s ⊆ t) : MultipliableUniformlyOn f s :=
   (h.exists.choose_spec.mono hst).multipliableUniformlyOn
 
+@[to_additive]
+lemma MultipliableUniformlyOn.congr {t : Set β} {f f' : ι → β → α}
+    (h : ∀ (i : ι), Set.EqOn (f i) (f' i) t)
+    (h2 : MultipliableUniformlyOn f t) : MultipliableUniformlyOn f' t := by
+  refine (h2.hasProdUniformlyOn.congr ?_).multipliableUniformlyOn
+  filter_upwards with n
+  exact eqOn_fun_finsetProd h n
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean]: Style nit:
```suggestion
    (h : ∀ (i : ι), Set.EqOn (f i) (f' i) t) (h2 : MultipliableUniformlyOn f t) :
    MultipliableUniformlyOn f' t :=
  (h2.hasProdUniformlyOn.congr (.of_forall <| eqOn_fun_finsetProd h)).multipliableUniformlyOn
```

File: Mathlib/Topology/Algebra/InfiniteSum/TsumUniformlyOn.lean [hunk 5]
```diff
@@ -62,20 +60,74 @@ lemma SummableLocallyUniformlyOn_of_locally_bounded [TopologicalSpace β] [Local
...
+section Continuous
+
+/-- An infinite sum of continuous functions that converges uniformly on a set
+is continuous. -/
+theorem SummableUniformlyOn.continuousOn_tsum (hf : ∀ i, ContinuousOn (f i) s)
+    (h : SummableUniformlyOn f s) : ContinuousOn (fun x => ∑' n, f n x) s := by
+  have := hasSumUniformlyOn_iff_tendstoUniformlyOn.mp h.hasSumUniformlyOn
+  refine this.continuousOn ?_
+  filter_upwards with _
+  fun_prop
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/InfiniteSum/TsumUniformlyOn.lean]: Style nit:
```suggestion
    (h : SummableUniformlyOn f s) : ContinuousOn (fun x => ∑' n, f n x) s :=
  h.hasSumUniformlyOn.tendstoUniformlyOn.continuousOn <| .of_forall fun _ ↦ by fun_prop
```

File: Mathlib/Topology/Algebra/InfiniteSum/TsumUniformlyOn.lean [hunk 6]
```diff
@@ -62,20 +60,74 @@ lemma SummableLocallyUniformlyOn_of_locally_bounded [TopologicalSpace β] [Local
...
+
+/-- An infinite sum of continuous functions that converges uniformly is continuous. -/
+theorem SummableUniformlyOn.continuous_tsum (hf : ∀ i, Continuous (f i))
+    (h : SummableUniformlyOn f univ) : Continuous (fun x => ∑' n, f n x) := by
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/InfiniteSum/TsumUniformlyOn.lean]: I think this is a job for `SummableUniformly`:
```suggestion
theorem SummableUniformly.continuous_tsum (hf : ∀ i, Continuous (f i))
    (h : SummableUniformly f) : Continuous (fun x => ∑' n, f n x) := by
```

File: Mathlib/Topology/Algebra/InfiniteSum/TsumUniformlyOn.lean [hunk 7]
```diff
@@ -62,20 +60,74 @@ lemma SummableLocallyUniformlyOn_of_locally_bounded [TopologicalSpace β] [Local
...
+  exact SummableUniformlyOn.continuousOn_tsum hf h
+
+/-- An infinite sum of continuous functions that converges locally uniformly on a set
+is continuous. -/
+theorem SummableLocallyUniformlyOn.continuousOn_tsum (hf : ∀ i, ContinuousOn (f i) s)
+    (h : SummableLocallyUniformlyOn f s) : ContinuousOn (fun x => ∑' n, f n x) s := by
+  have := hasSumLocallyUniformlyOn_iff_tendstoLocallyUniformlyOn.mp h.hasSumLocallyUniformlyOn
+  refine this.continuousOn ?_
+  filter_upwards with _
+  fun_prop
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/InfiniteSum/TsumUniformlyOn.lean]:
```suggestion
    (h : SummableLocallyUniformlyOn f s) : ContinuousOn (fun x => ∑' n, f n x) s :=
  h.hasSumLocallyUniformlyOn.continuousOn <| .of_forall fun _ ↦ by fun_prop
```

File: Mathlib/Topology/Algebra/InfiniteSum/TsumUniformlyOn.lean [hunk 8]
```diff
@@ -62,20 +60,74 @@ lemma SummableLocallyUniformlyOn_of_locally_bounded [TopologicalSpace β] [Local
...
+
+/-- An infinite sum of continuous functions that converges locally uniformly is continuous. -/
+theorem SummableLocallyUniformlyOn.continuous_tsum (hf : ∀ i, Continuous (f i))
+    (h : SummableLocallyUniformlyOn f univ) : Continuous (fun x => ∑' n, f n x) := by
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/InfiniteSum/TsumUniformlyOn.lean]: As above, this is a job for `SummableLocallyUniformly`:
```suggestion
theorem SummableLocallyUniformly.continuous_tsum (hf : ∀ i, Continuous (f i))
    (h : SummableLocallyUniformly f) : Continuous (fun x => ∑' n, f n x) := by
```

**Review by ocfnash — COMMENTED** [review]
I'm afraid I only have time for a very superficial review but I'll try to return quickly after you've had a chance to respond.

Please also merge master since you are changing imports and I'd like to see the results with https://github.com/leanprover-community/mathlib4/pull/32133 applied.

**Comment by CoolRmal** [comment]
I deleted theorems starting with `SummableUniformlyOn`. I also deleted theorems starting with `SummableUniformly` because we have [summableUniformlyOn_univ_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/InfiniteSum/UniformOn.html#summableUniformlyOn_univ_iff).

File: Mathlib/Topology/Algebra/InfiniteSum/TsumUniformlyOn.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Topology/Algebra/InfiniteSum/TsumUniformlyOn.lean]: I see now that the key difference is that the domain for the new lemma must be one-dimensional whereas the existing `continuousOn_tsum` allows any number of dimensions.

**Comment by ocfnash** [comment]
@CoolRmal I was finally able to take a close look at this today. I hope you don't mind but I decided to push up [a small commit](https://github.com/leanprover-community/mathlib4/pull/31377/commits/8d5a2c3b290151e910a8840ae98ac1921d44925a) since some of the suggestions were a bit tricky to explain through the GitHub interface.

I now understand that what this PR is doing is proving [https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/SmoothSeries.html#contDiff_tsum](contDiff_tsum) with a slightly weaker assumption but only for one-dimensional domains. I would have hoped that we could have a single result which dominated both of these lemmas. However I note that the file `TSumUniformlyOn.lean` has to some extent already established this precedent. With that in mind I'm going to ask another maintainer to give an opinion here.

**Comment by ocfnash** [comment]
> I'd rather have directly the higher-dimensional result, i.e., a version of `contDiff_tsum` requiring only local uniform convergence. Is that really harder to prove?

Thanks, I agree. Let's aim for that instead! Would you like to take this on @CoolRmal ?
